US04853158
21.3 Grams (0.1 M) of 5-acetyl-2-methylbenzenesulfonamide was dissolved in 180 g of methanol, while the resulting solution was kept at 35°-40° C., 16.0 g (0.1 M) of bromine was added dropwise by taking 1.5 hours. The reaction mixture was stirred for 10 minutes after the dropwise addition, 80 g of water was added to the reaction mixture and the whole reaction mixture was stirred for further 30 minutes at room temperature. A part of methanolwater was removed by evaporation, then the crystals formed were collected by filtration, washed with water and dried to obtain 28.0 g of 5-bromoacetyl-2-methylbenzenesulfonamide in the form of white crystals. Melting point: 146.5°-147.5° C Yield: 95.9%.

reactant | 5-acetyl-2-methylbenzenesulfonamide | 0.1 M | C(C)(=O)C=1C=CC(=C(C1)S(=O)(=O)N)C | C9H11NO3S
reactant | bromine | 0.1 M, 16.0 g | BrBr | Br2
reactant | water | 80 g | O | H2O
solvent | methanol | 180 g | CO | CH4O
product | 5-bromoacetyl-2-methylbenzenesulfonamide | 28.0 g, Yield: 95.9% | BrCC(=O)C=1C=CC(=C(C1)S(=O)(=O)N)C | C9H10BrNO3S
